US07393599B2
In the dark, an oven-dried 50 ml round-bottomed flask containing a stir bar was charged with CuI (0.171 g, 0.1 eq.), benzimidazole (1.273 g, 1.2 eq.), and cesium carbonate (6.138 g, 2.1 eq.) respectively. The round-bottomed flask with the contents was sealed with septa and degassed with argon for 15 minutes. Iodobenzene (1 ml, 1 eq.), 1,10-Phenanthroline (0.323 g, 0.2 eq.), and dimethylformamide (25 ml) were then successively added into the round-bottomed flask under a continuous flow of argon. The reaction mixture was degassed with argon for 30 minutes. The reaction was stirred with heating via an oil bath at 110° C. for 24 hours in the dark under nitrogen. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. 10 ml of ethyl acetate was added into the concentrated reaction mixture. It was then filtered and washed with 30 ml of ethyl acetate. The filtrate was concentrated under vacuo to give the crude product. The crude product was purified by column chromatography on silica gel (40% ethyl acetate:60% hexane as the eluent) providing 0.780 g of 1-Phenyl benzoimidazole (45% yield) as yellow liquid.

reactant | benzimidazole | 1.273 g, 1.2 eq. | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | cesium carbonate | 6.138 g, 2.1 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Iodobenzene | 1 ml, 1 eq. | IC1=CC=CC=C1 | C6H5I
reactant | 1,10-Phenanthroline | 0.323 g, 0.2 eq. | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | CuI | 0.171 g, 0.1 eq. | [Cu]I
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-Phenyl benzoimidazole | 0.780 g, 45% yield | C1(=CC=CC=C1)N1C=NC2=C1C=CC=C2 | C13H10N2
